US07846963B2
1.0 g of p-tolualdehyde (8.3 mmol) and 4.16 g of triphenyl phosphanyliden-acetic acid methyl ester (12.45 mmol) were dissolved in methylene chloride, the reaction solution was stirred at 90° C. for overnight. After the resulting mixture was concentrated under reduced pressure, a solvent mixture mixed with EtOAc and hexane (1:7) was added thereto with stirring for 1 hr. And then white solid was removed on filter, the residue was filtered and concentrated in vacuo to give 1.39 g of 3-p-tolyl-acrylic acid methyl ester (40aa) (yield: 95%).

reactant | p-tolualdehyde | 8.3 mmol, 1.0 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | triphenyl phosphanyliden-acetic acid methyl ester | 12.45 mmol, 4.16 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-p-tolyl-acrylic acid methyl ester | 1.39 g, yield: 95% | COC(C=CC1=CC=C(C=C1)C)=O | C11H12O2
